US08372807B2
A mixture of ethyl 5-hydroxy-1-(naphthalen-1-yl)-1H-pyrazole-4-carboxylate (480 mg, 1.8 mmol), aqueous potassium hydroxide solution (35%, 2.2 mL, 13.5 mmol) and methanol (5 mL) was heated to reflux for 24 hours. The reaction mixture was then cooled to 0° C., acidified to pH 2 with conc. HCl and refluxed for additional 12 hours to complete decarboxylation. The reaction was then cooled to room temperature and concentrated. The residue was taken up in water and extracted with ethyl acetate, the organic layer washed with water, dried over sodium sulfate and concentrated. Purification by preparative TLC (95% dichloromethane/5% methanol) afforded 1-(naphthalen-1-yl)-1H-pyrazol-5-ol.

reactant | ethyl 5-hydroxy-1-(naphthalen-1-yl)-1H-pyrazole-4-carboxylate | 1.8 mmol, 480 mg | OC1=C(C=NN1C1=CC=CC2=CC=CC=C12)C(=O)OCC | C16H14N2O3
reactant | potassium hydroxide | 13.5 mmol, 2.2 mL | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 1-(naphthalen-1-yl)-1H-pyrazol-5-ol | C1(=CC=CC2=CC=CC=C12)N1N=CC=C1O | C13H10N2O
